US09421205B2
(g) Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I140)
LiOH.H2O (0.015 g, 0.65 mmol, 3 eq) was added to a solution of tert-butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate (I139) (0.13 g, 0.22 mmol) in THF (7 mL), water (1.5 mL) and methanol (1 mL) and the resulting mixture was allowed to stir at room temperature for 70 hours. The volatiles were removed in vacuo and the residue was diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (50 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4 and the solvent removed in vacuo to give the title compound (I140) (0.12 g, 99%) as a pale yellow oil; LCMS Method C: rt 6.56 min; m/z 571.1 [M-Li+2H]+, 515.1 [M-Li-tButyl+2H]+, 471.1 [M-Li-Boc+2H]+, 569.2 [M-Li-H]−.

reactant | LiOH.H2O | 0.65 mmol, 0.015 g, 3 eq | O[Li].O
reactant | tert-butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate | 0.22 mmol, 0.13 g | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H35F3N4O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+] | InChI=1S/C30H33F3N4O4.Li/c1-29(2,3)41-28(40)37-15-14-22(18-37)20-8-11-23(12-9-20)35-27-34-17-24(30(31,32)33)25(36-27)13-10-19-6-4-5-7-21(19)16-26(38)39;/h4-9,11-12,17,22H,10,13-16,18H2,1-3H3,(H,38,39)(H,34,35,36);/q;+1/p-1
